* SPDX-FileCopyrightText: APM contributors
* SPDX-License-Identifier: Apache-2.0
* APM130/LV family-qualified public-wrapper nominal smoke

.lib ../../models/apm130/vendor/ihp-sg13g2-models/cornerMOSlv.lib mos_tt
.include ../../models/apm130/families/lv/ngspice/wrapper.inc

Vnd nd 0 1.0
Vng ng 0 1.0
Xn nd ng 0 0 apm130_lv_nmos w=1u l=0.13u

Vpd pd 0 -1.0
Vpg pg 0 -1.0
Xp pd pg 0 0 apm130_lv_pmos w=1u l=0.13u

.control
pre_osdi ../../.apm/build/osdi/psp103.osdi
pre_osdi ../../.apm/build/osdi/psp103-nqs.osdi
op
print i(vnd) i(vpd)
quit
.endc
.end
